US07858613B2
Pentylcarbamic acid 4-hydroxymethyl-5-oxo-2,3,4,5-tetrahydrobenzo[b]oxepin-4-ylmethyl ester
To a solution of 4,4-bis(hydroxymethyl)-3,4-dihydro-2H-benzo[b]oxepin-5-one (260 mg, 1.17 mmol) in 15 ml of tetrahydrofuran were added, at room temperature, triethylamine (0.18 ml, 1.3 mmol) and n-pentyl isocyanate (332 μl, 2.57 mmol). The mixture was heated to reflux for 24 hours, concentrated and purified by column chromatography on silica gel (eluent: 1:2 ethyl acetate/hexane). The product was obtained in a yield of 210 mg (54%).

reactant | 4,4-bis(hydroxymethyl)-3,4-dihydro-2H-benzo[b]oxepin-5-one | 1.17 mmol, 260 mg | OCC1(C(C2=C(OCC1)C=CC=C2)=O)CO | C12H14O4
reactant | triethylamine | 1.3 mmol, 0.18 ml | C(C)N(CC)CC | C6H15N
reactant | n-pentyl isocyanate | 2.57 mmol, 332 μl | C(CCCC)N=C=O | C6H11NO
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | Pentylcarbamic acid 4-hydroxymethyl-5-oxo-2,3,4,5-tetrahydrobenzo[b]oxepin-4-ylmethyl ester | OCC1(C(C2=C(OCC1)C=CC=C2)=O)COC(NCCCCC)=O | C18H25NO5
